US07534797B2
(1-{4-[8-Amino-1-(2-phenyl-quinolin-7-yl)-imidazo[1,5-a]pyrazin-3-ylmethyl]-piperidin-1-yl}-ethanone)
1-(2-Phenyl-quinolin-7-yl)-3-piperidin-4-ylmethyl-imidazo[1,5-a]pyrazin-8-ylamine (100.00 mg, 0.23 mmol) in a dried 10 mL round-bottom flask was dissolved in 1.7 mL of methylene chloride and was charged with PS-DIEA (117.95 mg, 0.46 mmol). Acetic anhydride (Ac2O) (11 μL, 0.51 equiv) was added in one portion. After 15 min., another 5.5 μL of Ac2O (0.25 equiv) was added. After another 15 min., another 2.64 μL of Ac2O (0.12 equiv) was added. After another 15 min., another 11 μL of Ac2O (0.51 equiv) was added. The reaction was filtered through a fritted funnel, and the resins were rinsed multiple times with methylene chloride. The crude product was purified by silica gel flash chromatography (wetted with 100% EtOAc, eluted with 5% (7N NH3) in MeOH/EtOAc) and afforded the desired product; 1H NMR (400 MHz, CHLOROFORM-d) δ 8.41 (1H, d, J=1.68), 8.28 (1H, d, J=8.20), 8.19 (2H, dd, J=1.51 Hz, J=1.18), 7.93 (3H, m), 7.53 (3H, m), 7.23 (1H, d, J=5.10), 7.12 (1H, d, J=5.76), 5.55 (2H, m), 4.67 (1H, d, J=13.28), 3.83 (1H, d, J=12.26), 3.06 (1H, m), 2.96 (2H, m), 2.56 (1H, m), 2.27 (1H, m), 2.10 (3H, s), 1.85 (2H, t), 1.31 (2 H, m); MS (ES+): m/z 477.11/478.08 (40/20) [MH+]; HPLC: tR=2.11 min (OpenLynx, polar—5 min).

reactant | 1-(2-Phenyl-quinolin-7-yl)-3-piperidin-4-ylmethyl-imidazo[1,5-a]pyrazin-8-ylamine | 0.23 mmol, 100.00 mg | C1(=CC=CC=C1)C1=NC2=CC(=CC=C2C=C1)C=1N=C(N2C1C(=NC=C2)N)CC2CCNCC2 | C27H26N6
reactant | DIEA | 0.46 mmol, 117.95 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | Acetic anhydride | 11 μL, 0.51 equiv | C(C)(=O)OC(C)=O | C4H6O3
reactant | Ac2O | 5.5 μL, 0.25 equiv | CC(=O)OC(=O)C | C4H6O3
reactant | Ac2O | 2.64 μL, 0.12 equiv | CC(=O)OC(=O)C | C4H6O3
reactant | Ac2O | 11 μL, 0.51 equiv | CC(=O)OC(=O)C | C4H6O3
solvent | methylene chloride | 1.7 mL | C(Cl)Cl | CH2Cl2
product | 1-{4-[8-Amino-1-(2-phenyl-quinolin-7-yl)-imidazo[1,5-a]pyrazin-3-ylmethyl]-piperidin-1-yl}-ethanone | NC=1C=2N(C=CN1)C(=NC2C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2)CC2CCN(CC2)C(C)=O | C29H28N6O
